US07495018B2
2-ethyl-4-(3-methylphenyl)-5-[2-(1-pyrrolidinylmethyl)-4-pyridyl]-1,3-thiazole dihydrochloride
To a solution of 5-(2-chloromethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole (0.20 g, 0.61 mmol) in pyrrolidine (0.5 mL) was stirred for 1 hour at 80° C. After cooling, to this was added an aqueous potassium carbonate solution, and extracted with ethyl acetate. The extracts were washed with brine, then, dried and concentrated. The residue was purified by alumina column chromatography (hexane-ethyl acetate=2:1). The resulting oil was made into a hydrochloride by using a solution of 4N-hydrogen chloride in ethyl acetate, and recrystallized from ethanol-isopropyl ether, to obtain a title compound (0.23 g, 85%).

reactant | 5-(2-chloromethyl-4-pyridyl)-2-ethyl-4-(3-methylphenyl)-1,3-thiazole | 0.61 mmol, 0.20 g | ClCC1=NC=CC(=C1)C1=C(N=C(S1)CC)C1=CC(=CC=C1)C | C18H17ClN2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 0.5 mL | N1CCCC1 | C4H9N
product | 2-ethyl-4-(3-methylphenyl)-5-[2-(1-pyrrolidinylmethyl)-4-pyridyl]-1,3-thiazole dihydrochloride | 0.23 g, 85% | Cl.Cl.C(C)C=1SC(=C(N1)C1=CC(=CC=C1)C)C1=CC(=NC=C1)CN1CCCC1 | InChI=1S/C22H25N3S.2ClH/c1-3-20-24-21(17-8-6-7-16(2)13-17)22(26-20)18-9-10-23-19(14-18)15-25-11-4-5-12-25;;/h6-10,13-14H,3-5,11-12,15H2,1-2H3;2*1H
